* C:\Users\imath\Documents\LTspice\Draft13.asc
D1 N001 N002 D
D2 N001 N002 D
R2 N001 N002 1Meg
C1 N001 N002 50pf
R1 N002 0 64.9 tol=1 pwr=0.1
V1 N001 0 V
.model D D
.lib C:\Users\imath\AppData\Local\LTspice\lib\cmp\standard.dio
.diode D1 Is=1e-9,rs=1
.diode D2 Is=1e-9,rs=1
.dc V1 -5 5 0.05
.backanno
.end
